US07754737B2
Solid EDC.HCl (4.62 g, 24.1 mmol) was added to a solution of (S)-2-(tert-butoxycarbonylamino)-3-cyclohexylpropanoic acid (5.08 g, 19.0 mmol), diisopropylethylamine (10.0 mL, 57 mmol), HOBt (0.38 g, 2.8 mmol), DMAP (0.16 g, 1.3 mmol), dimethylamine (15 mL of a 2 M THF solution, 30 mmol), and anhydrous DMF (50 mL). The resultant clear light yellow solution was stirred at rt and the reaction progress was followed by LC-MS. After 5 h, the solvent was removed (50° C., 150 Torr). The residue was taken up in ether (200 mL) and washed with satd aq NaHCO3 (3×25 mL). Hexanes (100 mL) was added to the Et2O extract and this was washed with water (5×10 mL) and brine (3×10 mL), dried (Na2SO4), decanted and stripped. The crude material was purified using 40 g SiO2 with an eluent of hexanes to EtOAc. Combining appropriate fractions and removal of solvent gave (S)-tert-butyl 3-cyclohexyl-1-(dimethylamino)-1-oxopropan-2-ylcarbamate (3.85 g, 69%) as a white solid. MS ESI+ve m/z 321 (M+Na)+.

reactant | EDC.HCl | 24.1 mmol, 4.62 g | CCN=C=NCCCN(C)C.Cl
reactant | (S)-2-(tert-butoxycarbonylamino)-3-cyclohexylpropanoic acid | 19.0 mmol, 5.08 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1CCCCC1 | C14H25NO4
reactant | diisopropylethylamine | 57 mmol, 10.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBt | 2.8 mmol, 0.38 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | dimethylamine | CNC | C2H7N
catalyst | DMAP | 1.3 mmol, 0.16 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | THF | 2 M | C1CCOC1 | C4H8O
product | (S)-tert-butyl 3-cyclohexyl-1-(dimethylamino)-1-oxopropan-2-ylcarbamate | 3.85 g, 69% | C1(CCCCC1)C[C@@H](C(=O)N(C)C)NC(OC(C)(C)C)=O | C16H30N2O3
